US08791303B2
2,2-dimethyl-propionic acid 3-oxo-4-(4-oxo-cyclohexylmethyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester (150 mg, 0.36 mmol) is dissolved in ethanol (8 ml) and hydroxylamine hydrochloride (36 mg, 0.43 mmol) is added. The solution is stirred while adding pyridine (32 mg, 0.40 mmol). The reaction mixture is heated to reflux for 2 hours. The reaction mixture is diluted with water and extracted with dichloromethane (1×40 ml). The organic extract is dried over magnesium sulphate, filtered and evaporated to a brown gum. The product is purified by HPLC to give 2,2-dimethyl-propionic acid 4-(4-methoxyimino-cyclohexylmethyl)-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester.

reactant | 2,2-dimethyl-propionic acid 3-oxo-4-(4-oxo-cyclohexylmethyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester | 0.36 mmol, 150 mg | O=C1C(C(CC1CC1CCC(CC1)=O)OC(C(C)(C)C)=O)C1=C(C=C(C=C1C)C)C | C26H36O4
reactant | hydroxylamine hydrochloride | 0.43 mmol, 36 mg | Cl.NO
reactant | pyridine | 0.40 mmol, 32 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,2-dimethyl-propionic acid 4-(4-methoxyimino-cyclohexylmethyl)-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester | CON=C1CCC(CC1)CC1C(C(C(C1)OC(C(C)(C)C)=O)C1=C(C=C(C=C1C)C)C)=O | C27H39NO4
